US04042704
3-(p-chlorophenyl)-1-methyl-benz[f]indazole
To a solution of 14 g of 3-(p-chlorophenyl)-1H-benz[f] indazole dissolved in 150 ml. dry dimethylacetamide under nitrogen is added 3 g. of a 57% suspension of sodium hydride in mineral oil. The reaction mixture is stirred at room temperature for 1 hour and then 5 ml. of methyl iodide is added. Stirring is continued for 2 hours then the mixture is poured on ice-water, and the precipitate recovered by filtration. The precipitate is recrystallized from ether to yeild the title compound, m.p. 157°-159°.

reactant | 3-(p-chlorophenyl)-1H-benz[f] indazole | 14 g | ClC1=CC=C(C=C1)C1=NNC2=CC3=C(C=C12)C=CC=C3 | C17H11ClN2
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
solvent | dimethylacetamide | CC(=O)N(C)C | C4H9NO
product | 3-(p-chlorophenyl)-1-methyl-benz[f]indazole | ClC1=CC=C(C=C1)C1=NN(C2=CC3=C(C=C12)C=CC=C3)C | C18H13ClN2
